US09023849B2
Dimethyl 3-(2-carbamoylhydrazinylidene)-2,2-dimethylbutanedioate
10 g (90 mmol) of semicarbazide hydrochloride, 15.5 g (82 mmol) of dimethyl 2,2-dimethyl-3-oxobutanedioate and 8.1 g (82 mmol) of sodium acetate were stirred in 135 ml of water at RT overnight and left to stand for two days. The mixture was cooled with ice-water, and the colourless precipitate was filtered off, washed with a little water and dried.

reactant | semicarbazide hydrochloride | 90 mmol, 10 g | Cl.NNC(=O)N
reactant | dimethyl 2,2-dimethyl-3-oxobutanedioate | 82 mmol, 15.5 g | CC(C(=O)OC)(C(C(=O)OC)=O)C | C8H12O5
reactant | sodium acetate | 82 mmol, 8.1 g | C(C)(=O)[O-].[Na+]
solvent | water | 135 ml | O | H2O
product | Dimethyl 3-(2-carbamoylhydrazinylidene)-2,2-dimethylbutanedioate | C(N)(=O)NN=C(C(C(=O)OC)(C)C)C(=O)OC | C9H15N3O5
